// Generated for: spectre
// Generated on: Sep 30 16:11:38 2008
// Design library name: test
// Design cell name: Inverter
// Design view name: schematic
simulator lang=spectre
global vss vdd

// Library name: test
// Cell name: Inverter
// View name: schematic
subckt Inverter ip_inv op_inv
    R0 (net16 op_inv) resistor r=100.0m m=1
    R1 (op_inv net17) resistor r=100.0m m=1
    M0 (net17 ip_inv vss vss) Nch w=15u l=0.35u m=1 region=triode
    M1 (net16 ip_inv vdd vdd) Pch w=20u l=0.35u m=1 region=triode
ends Inverter
// End of subcircuit definition.
